US06162815
(a) Synthesis of ethyl 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylsulfinyl)benzoate
1.1 g (3.1 mmol) of ethyl 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylthio)benzoate and 30 ml of dichloromethane were introduced into a round-bottomed flask, and 970 mg (3.1 mmol) of meta-chloroperbenzoic acid were then added. The entire contents were stirred at room temperature for two hours, the reaction medium poured into water, extracted with dichloromethane, the organic phase decanted off, dried over magnesium sulfate and evaporated. The residue was purified by chromatography on a silica column eluted with dichloromethane. After evaporation of the solvents, 1 g (84%) of the expected ester was recovered.

reactant | ethyl 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylthio)benzoate | 3.1 mmol, 1.1 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)SC1=CC=C(C(=O)OCC)C=C1)C | C23H28O2S
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | meta-chloroperbenzoic acid | 3.1 mmol, 970 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | water | O | H2O
product | ethyl 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylsulfinyl)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)S(=O)C1=CC=C(C(=O)OCC)C=C1)C | C23H28O3S
